US07157471B2
1-Benzyl-4-(2-(3,3,3-trifluoropropanoyl)-amino-4-fluoro--phenylamino)-piperidine
To a solution of 9.1 g 1-Benzyl-4-(2-amino-4-fluoro-phenylamino)-piperidine, 2.7 ml 3,3,3-trifluoropropionic acid and 18.6 ml N-methyl-morpholine in 350 ml dichloromethane was dropped 36.4 ml of a 50% solution of PPA in ethyl acetate. The mixture was stirred for 12 h at r.t., extracted 3× with 250 ml water, and the aqueous layers were extracted with 150 ml dichloromethane. After drying the combined organic layers with MgSO4, the solution was evaporated and purified by flash chromatography with dichloromethane/methanol 19:1. The yield was 11.9 g of the desired product.

reactant | 1-Benzyl-4-(2-amino-4-fluoro-phenylamino)-piperidine | 9.1 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=C1)F)N | C18H22FN3
reactant | 3,3,3-trifluoropropionic acid | 2.7 ml | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | N-methyl-morpholine | 18.6 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-4-(2-(3,3,3-trifluoropropanoyl)-amino-4-fluoro--phenylamino)-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=C(C=C(C=C1)F)C(CC(F)(F)F)=O)N | C21H23F4N3O
